US05677305
First, 3.811 g of 2-nitro-4-fluoro-5-chloroaniline, 2.473 g of 4-hydroxypyridine, and 1.827 g of powdered potassium hydroxide were allowed to react at 130° C. for 3 hours in a nitrogen atmosphere in the same way as in Reference Example 1 to give 1.125 g of 2-nitro-4-fluoro-5-(4-oxo-4H-pyridin-1-yl)-aniline.

reactant | 2-nitro-4-fluoro-5-chloroaniline | 3.811 g | [N+](=O)([O-])C1=C(N)C=C(C(=C1)F)Cl | C6H4ClFN2O2
reactant | 4-hydroxypyridine | 2.473 g | OC1=CC=NC=C1 | C5H5NO
reactant | potassium hydroxide | 1.827 g | [OH-].[K+]
product | 2-nitro-4-fluoro-5-(4-oxo-4H-pyridin-1-yl)-aniline | 1.125 g | [N+](=O)([O-])C1=C(N)C=C(C(=C1)F)N1C=CC(C=C1)=O | C11H8FN3O3
